US07105530B2
To a stirred solution of 3-methyl-6-aminoindazole (2.71 g, 0.015 mol) and NaHCO3 (1.26 g, 0.045 mol) in THF (15 mL) and ethanol (60 mL) was added 2,4-dichloropyrimidine (6.66 g, 0.045 mol) at room temperature. After the reaction was stirred for four hours, the suspension was filtered and washed thoroughly with ethanol. The filtrate was concentrated under reduced pressure, and the resulting solid was washed with ether to remove excess pyrimidine to yield 3.5 g (89% yield) of N-(2-chloro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine.

reactant | 3-methyl-6-aminoindazole | 0.015 mol, 2.71 g | CC1=NNC2=CC(=CC=C12)N | C8H9N3
reactant | NaHCO3 | 0.045 mol, 1.26 g | C(=O)(O)[O-].[Na+]
reactant | 2,4-dichloropyrimidine | 0.045 mol, 6.66 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | N-(2-chloro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine | 3.5 g, 89% yield | ClC1=NC=CC(=N1)NC1=CC=C2C(=NNC2=C1)C | C12H10ClN5
